### PR TITLE
integrability of normal_pdf

### PR DESCRIPTION
**Pull request by affeldt-aist**
- define normal_pdf using two intermediate functions normal_peak and normal_fun

The definition of `normal_pdf` using two intermediate functions turns out to come in handy
when proving more advanced properties of the normal distribution (to come in a later PR)

@IshiguroYoshihiro 

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

**Comment by affeldt-aist** [comment]
ping @Yosuke-Ito-345 ?

**Comment by Yosuke-Ito-345** [comment]
Sorry, I will take a look today (April 20th, Tokyo time). This pull request is ready for the review on my laptop.
Is it too late?

**Comment by affeldt-aist** [comment]
> Is it too late?

No, no. Don't worry too much, this is a gentle ping. :-)

**Comment by Yosuke-Ito-345** [comment]
All right. I'm relieved to hear that. ;-)

File: theories/probability.v [hunk 1]
```diff
@@ -1480,59 +1483,91 @@ Section normal_density.
...
 Lemma measurable_normal_pdf m s : measurable_fun setT (normal_pdf m s).
 Proof.
-rewrite /normal_pdf.
-have [_|s0] := eqVneq s 0; first exact: measurable_indic.
-apply: measurable_funM => //=; apply: measurableT_comp => //=.
-apply: measurable_funM => //=; apply: measurableT_comp => //=.
-apply: measurableT_comp (exprn_measurable _) _ => /=.
-exact: measurable_funD.
+rewrite /normal_pdf; have [_|s0] := eqVneq s 0; first exact: measurable_indic.
+exact: measurable_normal_pdf0.
```
Comment (Yosuke-Ito-345) [inline theories/probability.v:1536]: On my laptop, the last line can be omitted. Is it generally the case?
```
by rewrite /normal_pdf; have [_|] := eqVneq s 0; first exact: measurable_indic.
```

File: theories/probability.v [hunk 2]
```diff
@@ -1480,59 +1483,91 @@ Section normal_density.
...
-have [|s0 _] := eqVneq s 0; first by [].
-rewrite -[leRHS]mulr1.
-rewrite ler_wpM2l ?invr_ge0// ?sqrtr_ge0.
+rewrite /normal_pdf0 ler_piMr ?normal_peak_ge0//.
 rewrite -[leRHS]expR0 ler_expR mulNr oppr_le0 mulr_ge0// ?sqr_ge0//.
 by rewrite invr_ge0 mulrn_wge0// sqr_ge0.
 Qed.
 
+Lemma normal_pdf_ge0 m s x : 0 <= normal_pdf m s x.
+Proof. by rewrite /normal_pdf; case: ifP => // _; exact: normal_pdf0_ge0. Qed.
```
Comment (Yosuke-Ito-345) [inline theories/probability.v:1558]: The same as above.
```
Proof. by rewrite /normal_pdf; case: ifP. Qed.
```

File: theories/probability.v [hunk 3]
```diff
@@ -1480,59 +1483,91 @@ Section normal_density.
...
+
+Lemma continuous_normal_pdf m s : s != 0 -> continuous (normal_pdf m s).
+Proof.
+rewrite /normal_pdf; have [//|s0 _] := eqVneq s 0.
+exact: continuous_normal_pdf0.
+Qed.
```
Comment (Yosuke-Ito-345) [inline theories/probability.v:1564]: The same as above.
```
Proof. by rewrite /normal_pdf; have []:= eqVneq s 0. Qed.
```

File: theories/probability.v [hunk 4]
```diff
@@ -1480,59 +1483,91 @@ Section normal_density.
...
+
+Lemma normal_pdf_ub m s x : s != 0 -> normal_pdf m s x <= normal_peak s.
+Proof.
+by rewrite /normal_pdf; have [//|s0 _] := eqVneq s 0; exact: normal_pdf0_ub.
+Qed.
+
```
Comment (Yosuke-Ito-345) [inline theories/probability.v:1570]: The same as above.
```
by rewrite /normal_pdf; have [] := eqVneq s 0. Qed.
```

File: theories/probability.v [hunk 5]
```diff
@@ -1543,66 +1578,85 @@ Variables (R : realType) (m sigma : R).
...
+Let F (x : R^o) := (x - m) / (Num.sqrt (sigma ^+ 2 *+ 2)).
+
+Let normal_gauss_fun x : normal_fun x = gauss_fun (F x).
+Proof.
+congr expR; rewrite mulNr exprMn exprVn; congr (- (_ * _^-1)%R).
+by rewrite sqr_sqrtr// pmulrn_lge0// sqr_ge0.
+Qed.
+
+Lemma F'E : F^`()%classic = cst (Num.sqrt (sigma ^+ 2 *+ 2))^-1.
```
Comment (Yosuke-Ito-345) [inline theories/probability.v:1592]: Maybe your intention was `Let` rather than `Lemma`?
I think so because `F'E` is not in the document at the header.

**Review by Yosuke-Ito-345 — COMMENTED** [review]
I added some comments. I hope these would be useful. :-)

File: theories/probability.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/probability.v:1536]: Yes, because the lemma introduced by `Let` just before is considered as a hint by default.

Comment (Yosuke-Ito-345) [reply theories/probability.v]: Thanks, I didn't know that. :-)
